US07109229B2
(b) 3-(5-Cyano-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (296 mg, 1.57 mmol) and methyl 2-(5-cyano-1H-indol-3-yl)oxoacetate (356 mg, 1.56 mmol) in DMF (6.5 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (4.8 mL, 4.8 mmol) dropwise over 20 min at 4° C. under N2. The resulting dark red solution was heated up to 50° C. for 6 h. The mixture was cooled to 4° C. and quenched with 1.0 N hydrochloric acid (10 mL) and poured into EtOAc (100 mL). The organic layer was separated, washed with saturated NaHCO3 (60 mL), saturated NaCl (60 mL), dried (MgSO4), and concentrated to a red solid. Filtration from a slurry in CH2Cl2 (15 mL) afforded the first batch of the title compound (58 mg, 7.4%) as a red crystalline solid, mp 220° C. dec. Tritration of the concentrated filtrate with Et2O (8.0 mL) afforded a second batch of the title compound (288 mg, 36.9%). 1H NMR (DMSO-d6) δ 8.09 (s, 1H), 7.68 (m, 1H), 7.51 (m, 1H), 7.28–7.19 (m, 2H), 7.09–6.92 (m, 2H), 6.47 (m, 2H), 3.60 (s, 3H). MS (ESI): m/z=367 [C22H14N4O2+H]+

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.57 mmol, 296 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(5-cyano-1H-indol-3-yl)oxoacetate | 1.56 mmol, 356 mg | C(#N)C=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C12H8N2O3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 4.8 mmol, 4.8 mL | C1CCOC1 | C4H8O
solvent | DMF | 6.5 mL | CN(C)C=O | C3H7NO
product | 3-(5-Cyano-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 58 mg, 7.4% | C(#N)C=1C=C2C(=CNC2=CC1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H14N4O2
